US07514460B2
Intermediate 8: 4-chloro-7-methoxy-6-[3-(4-methylpiperazin-1-yl)propoxy]-quinazoline
The compound was synthesised according to GP 4 from 4-chloro-6-hydroxy-7-methoxy-quinazoline and 3-(4-methylpiperazin-1-yl)-propan-1-ol. LC/ESI-MS: m/z=351 [M+H].

reactant | 4-chloro-6-hydroxy-7-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)O)OC | C9H7ClN2O2
reactant | 3-(4-methylpiperazin-1-yl)-propan-1-ol | CN1CCN(CC1)CCCO | C8H18N2O
product | 4-chloro-7-methoxy-6-[3-(4-methylpiperazin-1-yl)propoxy]-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OCCCN1CCN(CC1)C)OC | C17H23ClN4O2
